US06617336B1
84 ml of anhydrous THF and 42 ml of a 2M solution of phenyllithium in hexane are placed in a 1 l triple-necked flask cooled to 0° C. with an ice bath. The reaction medium is heated to 65° C. and a solution of 12 g (69 mmol) of 3-methyl-8-methoxyquinoline in 50 ml of toluene is added dropwise. The mixture is brought to reflux for 6 h and cooled to ambient temperature, and 50 ml of ethanol are added dropwise. The mixture is concentrated under vacuum and the residue is purified by silica gel chromatography (eluent: heptane/ethyl acetate 9/1) to provide 5.9 g of 2-phenyl-3-methyl-8-methoxyquinoline. (Yield: 35%)

reactant | THF | 84 ml | C1CCOC1 | C4H8O
reactant | phenyllithium | C1(=CC=CC=C1)[Li]
reactant | 3-methyl-8-methoxyquinoline | 69 mmol, 12 g | CC=1C=NC2=C(C=CC=C2C1)OC | C11H11NO
reactant | ethanol | 50 ml | C(C)O | C2H6O
solvent | hexane | CCCCCC | C6H14
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-phenyl-3-methyl-8-methoxyquinoline | 5.9 g, Yield: 35% | C1(=CC=CC=C1)C1=NC2=C(C=CC=C2C=C1C)OC | C17H15NO
